US08426447B2
A 15-mL RBF was charged with cesium carbonate (358 mg, 1.099 mmol) and (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (365.01 mg, 0.999 mmol) in DMF (4995 μL). The resulting mixture was stirred for 10 min, then the flask was submerged in an ice-bath for 5 min. n-phenyltrifluoromethanesulfonimide (393 mg, 1.099 mmol) was added as a single portion. The mixture was stirred for 2 min, then the ice-bath was removed and stirring was continued for 1 hour. The mixture was diluted with water (and a small amount of brine to clear an emulsion) and extracted with EtOAc (3×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 50-g SNAP column, eluting with 0-60% of a 90:10 mixture of DCM/MeOH in DCM. The obtained residue was taken up in water (total 20 mL) and extracted with EtOAc (2×15 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated to give (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate.

reactant | cesium carbonate | 1.099 mmol, 358 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 0.999 mmol, 365.01 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)OC)O | C20H19N3O4
reactant | n-phenyltrifluoromethanesulfonimide | 1.099 mmol, 393 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | 4995 μL | CN(C)C=O | C3H7NO
product | (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC(C)(C)OC)(F)F | C21H18F3N3O6S
